US04009170
In a manner similar to that of Example 18 condensation of 1-hydrazino-6,7-dimethoxy-3,4-dihydroisoquinoline hydrochloride (9 g.) and α-methylcinnamaldehyde (5.62 g.) and recrystallization of the resulting product first from ethanol-methanol and then from ethanol-water afforded 1-[2-(2-methyl-3-phenylallylidene)hydrazino]-6,7-dimethoxy-3,4-dihydroisoquinoline (I: X= C6H5CH=C(CH3), X' = Y = Y' = H, Z = Z' = CH3O) hydrochloride monohydrate (10.2 g., m.p. 215°-217° C.).

reactant | 1-hydrazino-6,7-dimethoxy-3,4-dihydroisoquinoline hydrochloride | 9 g | Cl.N(N)C1=NCCC2=CC(=C(C=C12)OC)OC
reactant | α-methylcinnamaldehyde | 5.62 g | CC(C=O)=CC1=CC=CC=C1 | C10H10O
reactant | ethanol methanol | C(C)O.CO
solvent | ethanol water | C(C)O.O
product | 1-[2-(2-methyl-3-phenylallylidene)hydrazino]-6,7-dimethoxy-3,4-dihydroisoquinoline | CC(C=NNC1=NCCC2=CC(=C(C=C12)OC)OC)=CC1=CC=CC=C1 | C21H23N3O2
